// RLC damping design - Spectre netlist (output across C)
simulator lang=spectre
global 0

// Fast voltage step on `in` (edge << circuit natural period -> ideal step)
vin (in 0) vsource type=pulse val0=0 val1=1.8 delay=1.47354e-08 rise=5.89415e-11 fall=5.89415e-11 width=2.35766e-06 period=4.71532e-06

// Series RLC. R1 is the damping resistor to size; L1 and C1 are FIXED.
l1 (in mid) inductor l=2.2e-05
r1 (mid out) resistor r=6911.8
c1 (out 0) capacitor c=1e-12

// Transient: maxstep resolves the ring, stop captures the settling tail
tran tran stop=1.17883e-06 errpreset=conservative maxstep=1.47354e-10

save in out
